* C:\Documents and Settings\Michael Walsh\My Documents\GitHub\SingleOpAmp_Inverting_DualSupply\Simulations\Active_Amp.sxsch
*#SIMETRIX
X1 0 X1_inn VCC VEE R2_P TL072 pinnames: inp inn vsp vsn out
V1 VCC 0 9
V2 V_IN 0 AC 100m 0
R1 X1_inn V_IN 1k
V3 VEE 0 -9
R2 R2_P X1_inn 10k
.GRAPH R2_P axisType="auto" persistence=-1 curveLabel="FILTER_OUTPUT" xLog="auto" yLog="auto"  nowarn=true' 
.GRAPH V_IN curveLabel= V_IN nowarn=true ylog=auto xlog=auto 
.AC DEC 25 100 100Meg

